US07022707B2
(R)-2-Ethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(2-chloro-6-fluoro-4-(2-methyl-thiazol-4-ylmethoxy)-benzyl) ester:
This compound was prepared from 2-chloro-6-fluoro-4-(2-methyl-thiazol-4-ylmethoxy)-benzylalcohol and (R)-4-chlorocarbonyl-3-ethyl-piperazine-1-carboxylic acid tert-butyl ester according to the procedure described in Example 179 to give the product as a colorless oil (582 mg; 75%); MS (ISP): 528.2 (M+H)+.

reactant | 2-chloro-6-fluoro-4-(2-methyl-thiazol-4-ylmethoxy)-benzylalcohol | ClC1=C(CO)C(=CC(=C1)OCC=1N=C(SC1)C)F | C12H11ClFNO2S
reactant | (R)-4-chlorocarbonyl-3-ethyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](N(CC1)C(=O)Cl)CC | C12H21ClN2O3
product | (R)-2-Ethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(2-chloro-6-fluoro-4-(2-methyl-thiazol-4-ylmethoxy)-benzyl) ester | 582 mg, 75% | ClC1=C(COC(=O)N2[C@@H](CN(CC2)C(=O)OC(C)(C)C)CC)C(=CC(=C1)OCC=1N=C(SC1)C)F | C24H31ClFN3O5S
